US08247431B2
Step 2: Preparation of 3-amino-6-chloro-2-(2-furanyl)-4-methylpyridine
3-Amino-6-chloro-2-iodo-4-methylpyridine (1.38 g), 2-furanboronic acid (861 mg), and sodium carbonate (815 mg) were suspended in a solvent mixture consistent of toluene (19 mL), THF (19 mL) and water (6 mL). The mixture was degassed using subsequent evaporation and flushing with nitrogen (5×) and tetrakis(triphenylphosphine)palladium(0) (658 mg) was added. The reaction mixture was stirred at 90° C. for 5 hours and 12 hours at room temperature. After addition of another portion of 2-furanboronic acid (430 mg) and tetrakis(triphenyl phosphine)palladium(0) (132 mg), the mixture was stirred again for 12 hours at 90° C. After 12 hours stirring at room temperature, the reaction mixture was quenched with water and extracted 2× with ethyl acetate. The combined organic layer was washed with brine, dried over MgSO4 and concentrated in vacuum. The residue was purified by column chromatography (silica 60, hexane/ethyl acetate=4:1, Rf=0.25) to afford 929 mg of the title compound of the formula

reactant | 3-Amino-6-chloro-2-iodo-4-methylpyridine | 1.38 g | NC=1C(=NC(=CC1C)Cl)I | C6H6ClIN2
reactant | 2-furanboronic acid | 861 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 815 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 19 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 6 mL | O | H2O
solvent | THF | 19 mL | C1CCOC1 | C4H8O
product | 3-amino-6-chloro-2-(2-furanyl)-4-methylpyridine | 929 mg | NC=1C(=NC(=CC1C)Cl)C=1OC=CC1 | C10H9ClN2O
